US04633024
Dipotassium 2,6-naphthalenedisulfonate (364 g) was added to 560 g of a 50% aqueous solution of potassium hydroxide, and the mixture was stirred. Then, 2500 g of a hydrogenated triphenyl mixture was mixed, and the resulting mixture was heated to 310° C. in a nitrogen stream and dehydrated with stirring. The mixture was then stirred at 310° C. for 3 hours. After cooling, 2 liters of water was added to the reaction mixture to separate the hydrogenated triphenyl layer. The aqueous layer was decolorized with activated carbon, and precipitated with dilute sulfuric acid to give 148.2 g (yield 92.6%) of 2,6-dihydroxynaphthalene.

reactant | Dipotassium 2,6-naphthalenedisulfonate | 364 g | C1=C(C=CC2=CC(=CC=C12)S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 2 liters | O | H2O
product | 2,6-dihydroxynaphthalene | 148.2 g, yield 92.6% | OC1=CC2=CC=C(C=C2C=C1)O | C10H8O2
